US09108966B2
HATU (8.3 g, 21.7 mmol) was added to a solution of (2S,5R)-6-(benzyloxy)-7-oxo-1,6-diazabicyclo[3.2.1]octane-2-carboxylic acid (5.0 g, 18.1 mmol) and tert-butyl hydrazinecarboxylate (3.5 g, 27.2 mmol) in DCM (60 mL) at 0° C., followed by the addition of DIPEA (7.0 g, 54.3 mmol). The resulting mixture was stirred at 0° C. for 1 h. The reaction mixture was then diluted with DCM, washed with water (2×), and saturated sodium chloride, then dried over Na2SO4 and concentrated. The residue was purified by silica gel column chromatography (gradient elution 10:1 to 4:1 petroleum ether/EtOAc) to afford tert-butyl 2-((2S,5R)-6-(benzyloxy)-7-oxo-1,6-diazabicyclo[3.2.1]octane-2-carbonyl)hydrazinecarboxylate (6 g, 85%). ESI-MS (EI+, m/z): 391 [M+H]+.

reactant | HATU | 21.7 mmol, 8.3 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | (2S,5R)-6-(benzyloxy)-7-oxo-1,6-diazabicyclo[3.2.1]octane-2-carboxylic acid | 18.1 mmol, 5.0 g | C(C1=CC=CC=C1)ON1[C@@H]2CC[C@H](N(C1=O)C2)C(=O)O | C14H16N2O4
reactant | tert-butyl hydrazinecarboxylate | 27.2 mmol, 3.5 g | N(N)C(=O)OC(C)(C)C | C5H12N2O2
reactant | DIPEA | 54.3 mmol, 7.0 g | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 60 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 2-((2S,5R)-6-(benzyloxy)-7-oxo-1,6-diazabicyclo[3.2.1]octane-2-carbonyl)hydrazinecarboxylate | 6 g, 85% | C(C1=CC=CC=C1)ON1[C@@H]2CC[C@H](N(C1=O)C2)C(=O)NNC(=O)OC(C)(C)C | C19H26N4O5
